US08912173B2
1N tetrabutylammonium fluoride (TBAF) in THF was added to 1.71 g (3,5-Difluoro-4-methoxy-phenylethynyl)-trimethyl-silane and the mixture stirred at 25° C. overnight. The solvent was removed in vacuo and the residue purified by flash chromatography over silica eluting with 20:1 heptane:ethyl acetate to give 866 mg 5-Ethynyl-1,3-difluoro-2-methoxy-benzene in 72% yield.

reactant | tetrabutylammonium fluoride | 1N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (3,5-Difluoro-4-methoxy-phenylethynyl)-trimethyl-silane | 1.71 g | FC=1C=C(C=C(C1OC)F)C#C[Si](C)(C)C | C12H14F2OSi
solvent | THF | C1CCOC1 | C4H8O
product | 5-Ethynyl-1,3-difluoro-2-methoxy-benzene | 866 mg, 72% yield | C(#C)C=1C=C(C(=C(C1)F)OC)F | C9H6F2O
